US07598423B2
Synthesis of 1-(3-fluoro-2,4-dihydroxy-phenyl)-ethanone
A solution of 2-fluoro-3-methoxy-phenol (0.5 g, 3.53 mmol) and dichloromethane is stirred at −78° C. A 1M solution of boron tribromide in dichloromethane (3.9 mL, 3.9 mmol) is added slowly and the mixture is stirred 10 min cold, then warmed to 0° C. and stirred 1 hr. The reaction is quenched with ice and stirred at room temperature overnight. The product is extracted with ethyl acetate (2×50 mL), dried over magnesium sulfate, filtered, and concentrated. The resulting residue is combined with boron trifluoride diethyl etherate (1.3 mL, 10.3 mmol) and acetic acid (0.2 mL, 3.28 mmol) and heated to reflux 8 hr. The mixture is cooled to room temperature, diluted with water (50 mL), and extracted with ethyl acetate (3×50 mL). The combined extracts are dried over magnesium sulfate, filtered and concentrated to about 10 mL volume. The resulting mixture is diluted with hexanes (50 mL), cooled to 0° C., and filtered to give the title compound (310 mg, 58%) as a tan solid. MS ES 171 M+1.

reactant | 2-fluoro-3-methoxy-phenol | 3.53 mmol, 0.5 g | FC1=C(C=CC=C1OC)O | C7H7FO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | boron trifluoride diethyl etherate | 10.3 mmol, 1.3 mL | B(F)(F)F.CCOCC
reactant | acetic acid | 3.28 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 3.9 mmol, 3.9 mL | ClCCl | CH2Cl2
product | 1-(3-fluoro-2,4-dihydroxy-phenyl)-ethanone | 310 mg, 58% | FC=1C(=C(C=CC1O)C(C)=O)O | C8H7FO3
